US09145369B2
Ethyl 4,4-difluoro-3-oxobutanoate (VI-1)
Under a nitrogen atmosphere, 46.7 g (1.168 mol) of sodium hydride (60% dispersion in paraffin) were added to 600 ml of tetrahydrofuran. A mixture of 125 g (1.008 mol) of difluoroethyl acetate and 88.7 g (1.010 mol) of ethyl acetate was added dropwise at 35° C., while the temperature was kept below 40° C. The mixture was then further stirred at room temperature overnight. The reaction mixture was carefully poured into 1.7 l of ice water and the pH adjusted to pH 3 by addition of sulphuric acid. The mixture was extracted twice, each time with 500 ml of methyl tert-butyl ether, and the combined organic phases were washed twice with saturated sodium chloride solution, dried over sodium sulphate, concentrated at 40° C. and 150 mbar and distilled at 60 mbar (Vigreux column). The product was obtained at 85-87° C. as a colourless liquid (104 g, 62% of theory with a purity of >99% (GC)).

reactant | sodium hydride | 1.168 mol, 46.7 g | [H-].[Na+]
reactant | difluoroethyl acetate | 1.008 mol, 125 g | C(C)(=O)OCC(F)F | C4H6F2O2
reactant | ethyl acetate | 1.010 mol, 88.7 g | C(C)(=O)OCC | C4H8O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | Ethyl 4,4-difluoro-3-oxobutanoate | FC(C(CC(=O)OCC)=O)F | C6H8F2O3
